US08497274B2
(iv) Production of N-{5-[(2-amino-7-cyano-1,3-benzothiazol-6-yl)oxy]-4-chloro-2-fluorophenyl}-2,2,2-trifluoroacetamide
To a solution of N-[5-(4-amino-2-cyanophenoxy)-4-chloro-2-fluorophenyl]-2,2,2-trifluoroacetamide (1.0 g, 2.68 mmol) in acetic acid (20 mL) was added potassium thiocyanate (1.3 g, 13.4 mmol), and the mixture was stirred at room temperature for 10 min. A solution of bromine (513 mg, 3.21 mmol) in acetic acid (10 mL) was slowly added dropwise to the obtained solution. After the completion of the dropwise addition, the mixture was stirred at room temperature for 12 hr. The resulting yellow insoluble material was filtered off and washed with acetic acid. The filtrate and washings were combined and the mixture was concentrated under reduced pressure. The obtained residue was suspended in ethyl acetate (150 mL), washed successively with 5% aqueous sodium hydrogen carbonate solution (150 mL×2) and saturated brine (150 mL), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/n-hexane=30/70→80/20), and the obtained solution was concentrated under reduced pressure. The residue was recrystallized from ethyl acetate/n-hexane to give the title compound (0.71 g, 60%) as a white powder.

reactant | N-[5-(4-amino-2-cyanophenoxy)-4-chloro-2-fluorophenyl]-2,2,2-trifluoroacetamide | 2.68 mmol, 1.0 g | NC1=CC(=C(OC=2C(=CC(=C(C2)NC(C(F)(F)F)=O)F)Cl)C=C1)C#N | C15H8ClF4N3O2
reactant | potassium thiocyanate | 13.4 mmol, 1.3 g | [S-]C#N.[K+]
reactant | bromine | 3.21 mmol, 513 mg | BrBr | Br2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | N-{5-[(2-amino-7-cyano-1,3-benzothiazol-6-yl)oxy]-4-chloro-2-fluorophenyl}-2,2,2-trifluoroacetamide | 0.71 g, 60% | NC=1SC2=C(N1)C=CC(=C2C#N)OC=2C(=CC(=C(C2)NC(C(F)(F)F)=O)F)Cl | C16H7ClF4N4O2S
